US04450170
The 2-(2,6-dimethyl-4-nitrophenylimino)imidazolidine (8.75 g) was reduced with iron and hydrochloric acid in aqueous ethanol according to the process of Example 12. The product was chromatographed on a silica column and eluted with a methanol in methylene chloride gradient. The fractions containing the required compound were evaporated and the residue was treated with ethanolic hydrochloric acid to give 2-(4-amino-2,6-dimethylphenylimino)imidazolidine dihydrochloride. An analytical sample was recrystallised as the mono-hydro-iodide salt, mp 252°-253° C.

reactant | 2-(2,6-dimethyl-4-nitrophenylimino)imidazolidine | 8.75 g | CC1=C(C(=CC(=C1)[N+](=O)[O-])C)N=C1NCCN1 | C11H14N4O2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
catalyst | iron | [Fe] | Fe
product | 2-(4-amino-2,6-dimethylphenylimino)imidazolidine dihydrochloride | Cl.Cl.NC1=CC(=C(C(=C1)C)N=C1NCCN1)C | InChI=1S/C11H16N4.2ClH/c1-7-5-9(12)6-8(2)10(7)15-11-13-3-4-14-11;;/h5-6H,3-4,12H2,1-2H3,(H2,13,14,15);2*1H
